US09353107B2
Step-ii: 4-(4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)morpholine
Using similar reaction conditions as described in step-iii of example-1, 4-(4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) morpholine (100 mg, 0.157 mmol) was hydrolyzed by lithium hydroxide (33 mg, 0.786 mmol), THF/Methanol/water (5/5/3 ml) to afford 24 mg (32% yield) of the titled compound. 1H NMR (CDCl3, 300 MHz): δ 9.36 (s, 1H), 8.56 (s, 1H), 7.87 (s, 1H), 7.75-7.52 (d, 2H), 7.40-7.30 (m, 1H), 7.10-6.95 (m, 3H), 6.90-6.80 (d, 1H), 5.32 (s, 2H), 3.91-3.88 (m, 4H), 3.23-3.20 (m, 4H), 2.26 (s, 3H), 2.15 (s, 3H). MS: m/z=482.3 (M+1), HPLC Purity: 99.13% Method: B.

reactant | 4-(4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) morpholine | 0.157 mmol, 100 mg | FC=1C=C(CN2N=C(C(=C2C)C2=CN(C3=NC=C(C=C32)C3=CC=C(C=C3)N3CCOCC3)S(=O)(=O)C3=CC=C(C)C=C3)C)C=CC1 | C36H34FN5O3S
reactant | lithium hydroxide | 0.786 mmol, 33 mg | [OH-].[Li+]
solvent | THF Methanol water | 3 ml | C1CCOC1.CO.O
product | 4-(4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)morpholine | 24 mg, 32% yield | FC=1C=C(CN2N=C(C(=C2C)C2=CNC3=NC=C(C=C32)C3=CC=C(C=C3)N3CCOCC3)C)C=CC1 | C29H28FN5O
